US06897227B2
2-Carboxymethoxy-4-chlorosulfonylphenoxyacetic acid (Intermediate A15)
2-Carboxymethoxyphenoxyacetic acid (15.3 g, 0.0675 mol) was added in portions over 30 min to stirred chlorosulfonic acid (59.0 g, 0.506 mol) that was cooled in an ice/methanol bath. The mixture was allowed to warm to room temperature over 2.5 hr and was then poured slowly into stirred ice water. The resulting solid was collected by filtration, washed with water, and dried at high vacuum over sodium hydroxide. The product, title compound, weighed 6.54 g (30%).

reactant | 2-Carboxymethoxyphenoxyacetic acid | 0.0675 mol, 15.3 g | C(=O)(O)COC1=C(OCC(=O)O)C=CC=C1 | C10H10O6
reactant | chlorosulfonic acid | 0.506 mol, 59.0 g | ClS(=O)(=O)O | ClHO3S
product | 2-Carboxymethoxy-4-chlorosulfonylphenoxyacetic acid | C(=O)(O)COC1=C(OCC(=O)O)C=CC(=C1)S(=O)(=O)Cl | C10H9ClO8S
